US06492342B1
Phosphoric Acid Mono-(2-(5-(1-(3-Chloro-benzyloxy-E-imino)-ethyl)-3,4-dihydroxy-tetrahydro-furan-2-yloxy)-5-(2-(4,6,7-trihydroxy-hexahydro-benzo(1,3)dioxol-5-ylcarbamoyl)-propenyl)-phenyl) Ester
A solution of phosphoric acid dibenzyl-(2-(5-(1-(3-chloro-benzyloxy-E-imino)-ethyl)-3,4-dihydroxy-tetrahydro-furan-2-yloxy)-5-(2-(4,6,7-trihydroxy-hexahydro-benzo(1,3)dioxol-5-ylcarbamoyl)-propenyl)-phenyl) ester (95 mg, 0.105 mmol) and 168 mg of 1,4-cyclohexadiene (2.1 mmol) and 95 mg 10% palladium on carbon was stirred under nitrogen for 20 hours. The reaction mixture was filtered through Celite and evaporated. The residue was chromatographed on reversed phase SiO2 (30% methanol/water) to give 63 mg of the title compound; MS m/e 731 (M+).

reactant | phosphoric acid dibenzyl-(2-(5-(1-(3-chloro-benzyloxy-E-imino)-ethyl)-3,4-dihydroxy-tetrahydro-furan-2-yloxy)-5-(2-(4,6,7-trihydroxy-hexahydro-benzo(1,3)dioxol-5-ylcarbamoyl)-propenyl)-phenyl) ester | 0.105 mmol, 95 mg | C(C1=CC=CC=C1)C1=C(C(=C(C=C1C=C(C)C(NC1C(C2C(OCO2)C(C1O)O)O)=O)OP(O)(O)=O)OC1OC(C(C1O)O)/C(/C)=N/OCC1=CC(=CC=C1)Cl)CC1=CC=CC=C1 | C44H48ClN2O15P
reactant | 1,4-cyclohexadiene | 2.1 mmol, 168 mg | C1=CCC=CC1 | C6H8
catalyst | palladium on carbon | 95 mg | [Pd] | Pd
product | Phosphoric Acid Mono-(2-(5-(1-(3-Chloro-benzyloxy-E-imino)-ethyl)-3,4-dihydroxy-tetrahydro-furan-2-yloxy)-5-(2-(4,6,7-trihydroxy-hexahydro-benzo(1,3)dioxol-5-ylcarbamoyl)-propenyl)-phenyl) Ester | 63 mg | ClC=1C=C(CO\N=C(/C)\C2C(C(C(O2)OC2=C(C=C(C=C2)C=C(C)C(NC2C(C3C(OCO3)C(C2O)O)O)=O)OP(O)(O)=O)O)O)C=CC1 | C30H36ClN2O15P
